* Z:\home\sbecht\ultra-efficient-adc\comparatorLVS.asc
XX1 Input Thresh N007 Bias posA neg N001 N002 doublecomparatorpreamplvs
XX3 N001 N002 N003 N007 Bias posA posD neg N004 comparator_gainlatch_lds
XX2 posA neg Bias N007 doublebiaslvs
XX4 N004 N005 posD neg inverter
XX5 N005 N006 posD neg inverter
XX6 N006 Disable N008 Vpw1 Vpw2 posD neg Out N010 pulsewidthcontrol_lds
XX7 Disable N008 posD neg inverter
XX8 Disable N009 posD neg inverter
XX9 N009 N003 N010 posD neg nandlvs

* block symbol definitions
.subckt doublecomparatorpreamplvs Input Thresh Cascode Bias Vdd neg Vp V-
M1 V- neg neg neg nfet l=.9u w=1.5u
M2 neg V- V- neg nfet l=.9u w=1.5u
M3 Vp V- neg neg nfet l=.9u w=1.5u
M4 Vdd Vdd V- Vdd pfet l=.9u w=1.5u
M5 V- Input N002 Vdd pfet l=.9u w=1.5u
M6 N002 Thresh Vp Vdd pfet l=.9u w=1.5u
M7 Vdd Vdd Vdd Vdd pfet l=.9u w=1.8u
M8 N001 Cascode N002 Vdd pfet l=.9u w=1.8u
M9 Vdd Bias N001 Vdd pfet l=3.9u w=8.1u
M10 V- neg neg neg nfet l=.9u w=1.5u
M11 neg V- V- neg nfet l=.9u w=1.5u
M12 Vp V- neg neg nfet l=.9u w=1.5u
M13 Vdd Vdd V- Vdd pfet l=.9u w=1.5u
M14 V- Input N002 Vdd pfet l=.9u w=1.5u
M15 N002 Thresh Vp Vdd pfet l=.9u w=1.5u
M16 Vdd Vdd Vdd Vdd pfet l=.9u w=1.8u
M17 N001 Cascode N002 Vdd pfet l=.9u w=1.8u
M18 Vdd Bias N001 Vdd pfet l=3.9u w=8.1u
.ends doublecomparatorpreamplvs

.subckt comparator_gainlatch_lds Vp Vm Disable Cascode Vbias posA posD neg Dout
M8 Dout Disable neg neg nfet l=1.8u w=3.6u
M6 N001 N001 posD posA pfet l=2.7u w=4.5u
M7 N003 N001 Dout posA pfet l=0.6u w=0.9u
M11 N003 Disable posD posA pfet l=2.7u w=4.5u
M1 N1 Cascode N002 posA pfet l=2.4u w=4.8u
M2 N1 Vm N2 posA pfet l=3.6u w=3.6u
M3 N3 Vp N1 posA pfet l=3.6u w=3.6u
M4 neg N3 Dout neg nfet l=2.7u w=2.4u
M5 N3 N3 neg neg nfet l=2.7u w=2.4u
M9 N002 Vbias posA posA pfet l=18u w=9u
M10 N001 Dout neg neg nfet l=1.8u w=3.6u
M12 neg N2 N001 neg nfet l=2.7u w=2.4u
M13 N2 N2 neg neg nfet l=2.7u w=2.4u
M18 Dout Disable neg neg nfet l=1.8u w=3.6u
M19 N001 N001 posD posA pfet l=2.7u w=4.5u
M20 N003 N001 Dout posA pfet l=0.6u w=0.9u
M21 N003 Disable posD posA pfet l=2.7u w=4.5u
M22 N1 Cascode N002 posA pfet l=2.4u w=4.8u
M23 N1 Vm N2 posA pfet l=3.6u w=3.6u
M24 N3 Vp N1 posA pfet l=3.6u w=3.6u
M25 neg N3 Dout neg nfet l=2.7u w=2.4u
M26 N3 N3 neg neg nfet l=2.7u w=2.4u
M27 N002 Vbias posA posA pfet l=18u w=9u
M28 N001 Dout neg neg nfet l=1.8u w=3.6u
M29 neg N2 N001 neg nfet l=2.7u w=2.4u
M30 N2 N2 neg neg nfet l=2.7u w=2.4u
.ends comparator_gainlatch_lds

.subckt doublebiaslvs Vdd neg Bias Cascode
M1 neg N004 Cascode neg nfet l=3.9u w=2.1u
M2 Bias N004 neg neg nfet l=8.1u w=.9u
M3 Cascode Cascode N001 Vdd pfet l=3.9u w=8.1u
M4 N001 Bias Bias Vdd pfet l=.9u w=8.1u
M5 N001 Bias Vdd Vdd pfet l=3.9u w=8.1u
M6 N005 N004 neg neg nfet l=3.9u w=2.1u
M7 N005 N004 N004 neg nfet l=3.9u w=8.1u
M8 N004 Bias Vdd Vdd pfet l=3.9u w=1.8u
M9 N003 N003 N005 neg nfet l=3.9u w=2.1u
M10 Vdd Bias N003 Vdd pfet l=3.9u w=8.1u
M11 Vdd Vdd N001 Vdd pfet l=3.9u w=8.1u
M12 Vdd Vdd Cascode Vdd pfet l=3.9u w=8.1u
M13 Cascode neg neg neg nfet l=3.9u w=2.1u
M14 neg N004 Cascode neg nfet l=3.9u w=2.1u
M15 Bias N004 neg neg nfet l=8.1u w=.9u
M16 Cascode Cascode N002 Vdd pfet l=3.9u w=8.1u
M17 N002 Bias Bias Vdd pfet l=.9u w=8.1u
M18 N002 Bias Vdd Vdd pfet l=3.9u w=8.1u
M19 N006 N004 neg neg nfet l=3.9u w=2.1u
M20 N006 N004 N004 neg nfet l=3.9u w=8.1u
M21 N004 Bias Vdd Vdd pfet l=3.9u w=1.8u
M22 N003 N003 N006 neg nfet l=3.9u w=2.1u
M23 Vdd Bias N003 Vdd pfet l=3.9u w=8.1u
M24 Vdd Vdd N002 Vdd pfet l=3.9u w=8.1u
M25 Vdd Vdd Cascode Vdd pfet l=3.9u w=8.1u
M26 Cascode neg neg neg nfet l=3.9u w=2.1u
.ends doublebiaslvs

.subckt inverter IN OUT pos neg
M1 OUT IN neg neg nfet l=.9u w=3u
M2 OUT IN pos pos pfet l=.9u w=6u
.ends inverter

.subckt pulsewidthcontrol_lds Din Reset ResetB Vpw1 Vpw2 pos neg Out OutB
M21 N004 Din neg neg nfet l=0.6u w=0.9u
M25 Din Out neg neg nfet l=2.4u w=4.5u
M27 N001 Y X pos pfet l=0.9u w=1.2u
M28 pos H N001 pos pfet l=3.6u w=7.2u
M30 Y X pos pos pfet l=0.6u w=1.8u
M31 neg Y H neg nfet l=0.9u w=0.9u
M32 N002 Y H pos pfet l=0.9u w=1.8u
M33 pos Vpw2 N002 pos pfet l=1.8u w=4.8u
M36 N003 Reset pos pos pfet l=0.6u w=1.8u
M1 Out Y N006 neg nfet l=0.6u w=1.8u
M2 Out Y N003 pos pfet l=0.6u w=3.6u
M3 OutB Out pos pos pfet l=0.6u w=1.8u
M4 N005 N004 pos pos pfet l=0.6u w=1.8u
M5 N004 Din pos pos pfet l=0.6u w=1.8u
M6 N005 Out X pos pfet l=0.6u w=1.8u
M7 N007 OutB X pos pfet l=0.6u w=1.8u
M8 N005 N004 neg neg nfet l=0.6u w=0.9u
M9 N005 OutB X neg nfet l=0.6u w=0.9u
M10 N007 Out X neg nfet l=0.6u w=0.9u
M11 Y X neg neg nfet l=0.6u w=0.9u
M12 OutB Out neg neg nfet l=0.6u w=0.9u
M13 Out Reset neg neg nfet l=0.6u w=0.9u
M14 N006 ResetB neg neg nfet l=0.6u w=0.9u
M15 N007 Vpw1 neg neg nfet l=2.4u w=4.5u
M16 neg Y H neg nfet l=0.9u w=0.9u
M17 N002 Y H pos pfet l=0.9u w=1.8u
.ends pulsewidthcontrol_lds

.subckt nandlvs A OUT B pos neg
M1 pos A OUT pos pfet l=.9u w=6u
M2 OUT B pos pos pfet l=.9u w=6u
M3 N001 A neg neg nfet l=.9u w=3u
M4 OUT B N001 neg nfet l=.9u w=3u
.ends nandlvs

.backanno
.end
